US07901594B2
5,12-Dihydro-1,2,3,4,6,11-hexapropylnaphthacene
2,3-Bis(2-hexynyl)-1,4-dipropylnaphthalene (0.373 g, 1.0 mmol) was added at −78° C. to a 20 ml THF solution of bis(i5-cyclopentadienyl)dibutylzirconium, which was prepared from bis(η5-cyclopentadienyl)dichlorozirconium (0.351 g, 1.2 mmol) and n-butyl lithium (1.5 ml, 2.4 mmols, 1.6 M). After elevating to room temperature, the reaction mixture was stirred for an hour. 4-Octyne (0.22 ml, 1.5 mmol) and NiBr2(PPh3)2 (0.892 g, 1.2 mmol) were added to the reaction mixture at room temperature. After stirring for 24 hours, hydrolysis was effected by 3N HCl followed by extraction with hexane. The extract was washed with sodium hydrogencarbonate aqueous solution and brine followed by drying over anhydrous magnesium sulfate. Column chromatography was performed using silica gel as the packing material to give the title compound (0.224 g) as somewhat orange powders by floured with ethanol. The isolation yield was 46%.

reactant | 2,3-Bis(2-hexynyl)-1,4-dipropylnaphthalene | 1.0 mmol, 0.373 g | C(C#CCCC)C1=C(C2=CC=CC=C2C(=C1CC#CCCC)CCC)CCC | C28H36
reactant | n-butyl lithium | 2.4 mmols, 1.6 M, 1.5 ml | C(CCC)[Li]
reactant | 4-Octyne | 1.5 mmol, 0.22 ml | CCCC#CCCC | C8H14
reactant | HCl | 3N | Cl | ClH
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 5,12-Dihydro-1,2,3,4,6,11-hexapropylnaphthacene | 0.224 g, yield was 46% | C(CC)C1=C(C(=C(C=2CC3=C(C4=CC=CC=C4C(=C3CC12)CCC)CCC)CCC)CCC)CCC | C36H50
